Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bilat hip pain  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ M with a history of metastatic rectal CA 
and L1-L3 and pulmonary metastasis s/p palliative radiation, who 
presents with worsening low back pain. ___ had XRT to L1-L3 
lesions ___ w improvement in pain.  ___ was admitted 
earlier this week with similar symptoms.  On that admission his 
fentanyl patch was increased and ___ was started on vicodin.  ___ 
has been unable to tolerate the vicodin secondary to nausea.  
Denies bw\owel/bladder dysfunction.  No lower extremity 
weakness.
.  
In the ED, inital vitals were 138/86 104 97.0 20 100%RA.  Pt 
received dilaudid 1mg IV x 4 for pain control.  Also received 
zofran 4mg IV.  Admitted for pain control. 
 
Past Medical History:
Oncology Hx: hx stage II rectal CA, treated in ___. ___ 
underwent preoperative chemotherapy and radiation therapy and 
then low anterior resection at that time. The patient did well 
for several years with recurrence in late ___. ___ has lung 
metastases which were avid on a PET scan. His PET scan on 
___ had shown the presence of 3 lung metastases, 2 in the 
left upper lobe and 1 in the left lower lobe as well as multiple 
noncalcified nodules in both lungs and progression of osseous 
metastases in his L1, L2, and L3. Started palliative XRT ___ of 
spinal lesions. Pain well controlled on fentanyl patch until 
Recently.  
.  
1. stage III rectal ca s/p neoadjuvant chemo/XRT/LAR ___  
2. lung lesions discovered ___, VAT L-lobe resection, met adeno 
CA  
3. duplicated L-kidney - upper pole moiety hydronephrosis and 
obs  
4. cholecystitis  
5. depression/anxiety  
6. incisional hernia repair  
7. L testicular hydrocele repair  
 
Social History:
___
Family History:
Father had prostate cancer, otherwise unremarkable. 
 
Physical Exam:
VS: 98.8, 124/80, 83, 16, 95-100RA, wt 169.4lb
Gen: appears uncomfortable
Heent: PERRLA, EOMI, MMM, JVP flat  
Cards: RRR  
Chest: CTAB  
Abd; BS+ NT ND soft, incisional scars  
Back: no spinal tenderness, no CVA tenderness  
Ext: no edema. good pulses  
Neuro: CN ii-xii intact  
- strength ___ bilat upper/lower ___ ext/flex  
- reflexes 2+ ankles and knees bilat w down toes  
- gait normal  
- ___ light touch intact  
 
Pertinent Results:
___ 07:58AM BLOOD WBC-4.8 RBC-3.81* Hgb-11.5* Hct-31.8* 
MCV-83 MCH-30.2 MCHC-36.2* RDW-15.1 Plt ___
___ 07:58AM BLOOD Plt ___
___ 07:58AM BLOOD Glucose-91 UreaN-17 Creat-1.1 Na-135 
K-4.4 Cl-99 HCO3-30 AnGap-10
___ 07:58AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.___/P ___ y/o with metastatic rectal ca, with 2 recent admission 
for pain control
.
#. Pelvic, back pain - Pelvis x-rays done during his recent 
admission were without fracture or lesions.  A ___ care 
consult was obtained for pain management. His Fentanyl patch 
dose had been increased from 150mcg to 200mcg during his last 
admission from ___. Per the patients request the Fentanyl 
was decreased back to 150mcg as it was worsening his nausea.  
The patient was started on ultram 50mg q6h with his pain 
decreased to a managable level. ___ also  was able to tolerate PO 
dilaudid when taken 20 minutes after reglan. Mr ___ nausea 
appears to be secondary to the severe pain. In the past ___ 
waited to ___ had unbearable pain until taking PO narcotics which 
exacerbaed the nausea. ___ was encouraged to take the narcotics 
earlier as the pain begins to escalate to avoid nausea. Mr 
___ was also discharged on standing tylenol. At the 
suggestion of ___ care ___ was prescribed  Actiq Fentanyl 
lollipops. ___ was instructed to consult with ___ care upon 
receiving this medication so that they can further demonstrate 
proper usage and scheduling. ___ was encouraged to persue 
non-traditional pain control, including accupunture. A SW 
consult was placed for coping skills. Mr ___ was told that 
___ is not to drive or operate machinary while taking these 
narcotics until further advised by his doctors. ___ is to follow 
up with Dr. ___ care ___  and Dr. ___.

#.Nausea: felt to be secondary to pain more than narcotics. It 
resolved with improved pain control and will taking PO narcotics 
with Reglan. Mr ___  zofran was discontinued as it may 
worsen constipation which in the past has exacerbated his pain. 
___ was discharged with Reglan.

#.Rectal Ca: Stage III rectal cancer status post neoadjuvant 
chemo/XRT/LAR in ___. Known lung and spine mets. Finished XRT 
to lumbar spine on ___. Further management to be determined as 
an outpatient by Dr. ___ is to follow up with Dr ___ on 
___ and his office is arranging the scheduling of a PET scan.

#. Anemia: Stable with HCT in low ___, similar to last emission. 

No evidence of acute bleed. Normocytic. Likely represents anemia 

of chronic disesae although further testing as an outpatient is 
warranted to confirm this diagnosis.

#: GI: has short gut syndrome from LAR in ___. Continued on 
Librax prn. Discharged on bowel regimen for added pain regimen.

# depression - continued on citalopram

full code

 
Medications on Admission:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 

 
2. Librax (with Clidinium) 2.5-5 mg Capsule Sig: ___ Capsules PO 

___ tablets q2-4h prn () as needed for diarrhea.  
3. Fentanyl 100 mcg/hr Patch 72 hr Sig: Two (2) patches 
Transdermal every ___ (72) hours.
Disp:*20 patches* Refills:*0*
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Vicodin ___ mg Tablet Sig: One (1) Tablet PO every four (4) 

hours as needed for breakthrough pain.
Disp:*60 Tablet(s)* Refills:*0*
7. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*60 Tablet(s)* Refills:*0*
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*1*
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*2*
3. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1)  Transdermal 
every ___ (72) hours: to be used with a 100mcg patch for 
a total dose of 150mcg/ 72hrs.
Disp:*10 patches* Refills:*2*
6. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1)  Transdermal 
every ___ (72) hours: to be used with a 50mcg patch for 
a total dose of 150mcg/ 72hrs.  
7. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day) as needed for nausea: to be taken 20 minutes prior 
to Dilaudid, however to not exceed QID.
Disp:*80 Tablet(s)* Refills:*0*
8. Dilaudid 8 mg Tablet Sig: One (1) Tablet PO q2h as needed for 
pain: to be taken 20 minutes after Reglan.
Disp:*80 Tablet(s)* Refills:*0*
9. Tramadol 50 mg Tablet Sig: ___ Tablets PO Q6H (every 6 hours) 
as needed for pain.
Disp:*240 Tablet(s)* Refills:*0*
10. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours). Tablet(s) 
11. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for pain for 1 months.
Disp:*90 Tablet(s)* Refills:*0*
13. Actiq 400 mcg Lozenge on a Handle Sig: One (1) lozenge 
Buccal q2h as needed for pain: Do not suck, paint medication on 
inside of cheek. Please contact ___ care prior to trying 
for the first time.
Disp:*50 lozenges* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
metastatic rectal cancer
.
Secondary diagnosis:
depression/anxiety

 
Discharge Condition:
improved pain control

 
Discharge Instructions:
You were admitted to the hosptial for increased hip and back 
pain. 
During your recent admission pelvic x-rays were obtained 
which did not show fracture or lesions. 
During your hospital stay you received a short course of IV dilaudid before being 
transitioned to Ultram  and dilaudid by mouth with success. 

The following changes have been made to your medications.
Fentanyl patch decreased from 200 to 150mcg
Vicodin discontinued
zofran discontinued as it may worsen constipation.
Started on Ultram and ibuprofen for breakthrough pain
Started on by mouth dilaudid taken 20 minutes after Reglan for 
pain control.
Started on Senna for constipation
Actiq, fentanyl lozenge on a handle for pain. THis may take time 
to be filled. Please contact ___ care prior to trying this 
medicatino for the first time.
.

You need to follow up with your doctors as detailed below. 
___ care can help you contact recommanded accupunturists.
.
If you develop increased pain, severe constipation / diarrhea, 
leg weakness, SOB, chest pain, fevers, or any other worrisome 
symptom please call your doctor or go to the nearest emergency 
room.
 
Followup Instructions:
___